US08623889B2
To a solution of Methyl 5-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-6-methylnicotinate (11.9 mg, 0.0329 mmol) in tetrahydrofuran (3 mL, 40 mmol) was added 1.0 M of lithium tetrahydroaluminate in tetrahydrofuran (0.10 mL). The reaction mixture was stirred at room temperature for 30 minutes. The reaction was then quenched with water and extracted twice with dichloromethane. The combined organic extracts were dried over MgSO4, filtered, and evaporated in vacuo. The crude material was purified via flash chromatography on silica gel (25 g silica, solvent gradient: 0-10% methanol in dichloromethane) to yield 4.5 mg (41%) of N-(7-(5-(hydroxymethyl)-2-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=2.995, M+H=334.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.91 (s, 1H), 9.19 (s, 1H), 8.50 (s, 1H), 8.46 (s, 1H), 8.06 (s, 1H), 7.95 (d, J=8.7 Hz, 1H), 7.74 (d, J=8.6 Hz, 1H), 7.64 (s, 1H), 5.30 (t, J=5.4 Hz, 1H), 4.58 (d, J=5.2 Hz, 2H), 2.47 (s, 3H), 2.08 (s, 1H), 0.91-0.78 (m, 4H).

reactant | Methyl 5-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-6-methylnicotinate | 0.0329 mmol, 11.9 mg | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C(=NC=C(C(=O)OC)C1)C | C21H19N3O3
reactant | lithium tetrahydroaluminate | 1.0 M | [AlH4-].[Li+]
solvent | tetrahydrofuran | 0.10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mmol, 3 mL | O1CCCC1 | C4H8O
product | N-(7-(5-(hydroxymethyl)-2-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 4.5 mg, 41% | OCC=1C=C(C(=NC1)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C20H19N3O2
